US08729061B2
(2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-N-methylhexanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using (S)-2-aminopentanoic acid in the first step (step B1), and N-methylcyclopropanamine in the seventh step (step B7).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | (S)-2-aminopentanoic acid | N[C@H](C(=O)O)CCC | C5H11NO2
reactant | N-methylcyclopropanamine | CNC1CC1 | C4H9N
product | (2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-N-methylhexanamide | N[C@H]([C@@H](C(=O)N(C)C1CC1)O)CCC | C10H20N2O2
